US08017601B2
Methyl 6-(isoquinolin-5-yl)-1-naphthoate
Methyl 6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1-naphthoate (2.2 g, 7.0 mmol), 5-Bromoisoquinoline (1.33 g, 6.3 mmol), a 2M solution of sodium carbonate (9.6 mL) and palladium tetrakistriphenylphospine (0.37 g, 0.32 mmol) were heated in Toluene-EtOH (105 mL-21 mL) at 80° C. overnight. Solvent was evaporated and mixture was extracted with ethyl acetate. Organic phase was washed with brine, dried, filtered and evaporated. Residue was purified by chromatography (ethyl acetate-hexane 10:90->20:80->30:70->40:60->60-40. to give 1.4 g of the title compound as an off-white solid

reactant | Methyl 6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1-naphthoate | 7.0 mmol, 2.2 g | CC1(OB(OC1(C)C)C=1C=C2C=CC=C(C2=CC1)C(=O)OC)C | C18H21BO4
reactant | 5-Bromoisoquinoline | 6.3 mmol, 1.33 g | BrC1=C2C=CN=CC2=CC=C1 | C9H6BrN
reactant | sodium carbonate | 9.6 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | Toluene EtOH | 105 mL-21 mL | C1(=CC=CC=C1)C.CCO
product | Methyl 6-(isoquinolin-5-yl)-1-naphthoate | 1.4 g | C1=NC=CC2=C(C=CC=C12)C=1C=C2C=CC=C(C2=CC1)C(=O)OC | C21H15NO2
